US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (90 mg, 0.2 mmol) in 2.0 mL of THF under nitrogen atmosphere at −78° C. was added drop-wise 0.3 mL (0.6 mmol) of isopropylmagnesium chloride. The mixture was then stirred for 10 min at −78° C. followed by warming to room temperature and stirred at that temperature for 30 min. The mixture was cooled to 0° C. (ice water) and a solution of N-methoxy-6,N-dimethyl-nicotinamide (72mg, 0.4 mmol) in 1 mL of THF was added. The mixture was stirred at room temperature for 3 hours, quenched with 1M HCl and neutralized with 1M NaOH until pH was 9. The mixture was extracted with ethyl acetate, dried and concentrated. The residue was purified by flash column (silica gel, 50% ethyl acetate in hexane) to afford 36 mg of 4-chloro-N-[5-chloro-2-(6-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide as an off white solid. MS: (M+H)/z=534.0.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.2 mmol, 90 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 0.6 mmol, 0.3 mL | C(C)(C)[Mg]Cl
reactant | N-methoxy-6,N-dimethyl-nicotinamide | 0.4 mmol, 72mg | CON(C(C1=CN=C(C=C1)C)=O)C | C9H12N2O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(6-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 36 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C=NC(=CC1)C)C(F)(F)F | C21H16Cl2F3N3O4S
